US07897762B2
HNO3 (11.7 g, 185 mmol)was added dropwise to a mixture of 1-tert-butyl-1H-pyrazole (23 g, 185 mmol) in conc. H2SO4 (30 mL) at 0° C. The resulting mixture was stirred at 0° C. for 30 min and was poured onto crashed ice. The aqueous mixture was extracted with EtOAc. The combined organics were washed with brine, dried (MgSO4) and concentrated in vacuo to give 1-tert-butyl-4-nitro-1H-pyrazole (20 g, 64% yield). 1H NMR (400 MHz, DMSO-d6): δ8.85 (s, 1H), 8.23 (s, 1 H), 1.52 (s, 9 H).

reactant | HNO3 | 185 mmol, 11.7 g | [N+](=O)(O)[O-] | HNO3
reactant | 1-tert-butyl-1H-pyrazole | 185 mmol, 23 g | C(C)(C)(C)N1N=CC=C1 | C7H12N2
solvent | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
product | 1-tert-butyl-4-nitro-1H-pyrazole | 20 g, 64% yield | C(C)(C)(C)N1N=CC(=C1)[N+](=O)[O-] | C7H11N3O2
